US06921763B2
N2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-7-isopropyl-1,3-benzoxazol-2-amine was prepared from N2-(4-bromophenyl)-7-isopropyl-1,3-benzoxazol-2-amine (0.412 g, 1.24 mmol) in a manner similar to that used for the preparation of N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine. The compound was formed as an off-white solid (0.346 g, 74%).

reactant | N2-(4-bromophenyl)-7-isopropyl-1,3-benzoxazol-2-amine | 1.24 mmol, 0.412 g | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=CC=C2C(C)C | C16H15BrN2O
reactant | N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC=1OC2=C(N1)C=CC=C2 | C19H20BFN2O3
product | N2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-7-isopropyl-1,3-benzoxazol-2-amine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=CC=C2C(C)C)C | C22H27BN2O3
